US07429665B2
2-[2-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting 1-[3-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.47 (d, J=6.2 Hz, 2H), 8.21 (d, J=8.3 Hz, 1H), 8.05 (d, J=8.7 Hz, 1 H), 7.83 (d, J=7.9 Hz, 2H), 7.72 (m, 2H), 7.55 (m, 2H), 7.16 (m, 2 H), 7.07 (m, 1H), 6.99 (m, 2H), 5.45 (s, 2 H), 3.95 (s, 3H); MS: (M+H m/z=411.0).

reactant | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | 1-[3-Fluoro-4-(quinolin-2-ylmethoxy)-phenyl]-2-pyridin-4-yl-ethanone | FC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(CC1=CC=NC=C1)=O | C23H17FN2O2
product | 2-[2-Fluoro-4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | FC1=C(OCC2=NC3=CC=CC=C3C=C2)C=CC(=C1)C1=NN(C=C1C1=CC=NC=C1)C | C25H19FN4O
